US08729061B2
(2S,3S)-3-Amino-2-hydroxy-N-(pentan-2-yl)hexanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-2-aminopentan-1-ol in the first step (A1), and using 2-isocyanopentane in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-2-aminopentan-1-ol | N[C@H](CO)CCC | C5H13NO
reactant | 2-isocyanopentane | [N+](#[C-])C(C)CCC | C6H11N
product | (2S,3S)-3-Amino-2-hydroxy-N-(pentan-2-yl)hexanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC(C)CCC)O)CCC | InChI=1S/C11H24N2O2.2ClH/c1-4-6-8(3)13-11(15)10(14)9(12)7-5-2;;/h8-10,14H,4-7,12H2,1-3H3,(H,13,15);2*1H/t8?,9-,10-;;/m0../s1
